US03966942
Following the procedures of Example 1, triethylorthopropionate is reacted with 3-(4'-chlorophenyl)-rhodanine in acetic anhydride for 51/2 hours to give 3-(4'-chlorophenyl)-5-(1'-ethoxypropylidene)-rhodanine. To a suspension of the latter (25 g., 0.0765 m.) in 200 ml. of dioxane and 200 ml. of water is added 50 ml. of 10% sodium hydroxide solution. The mixture is stirred at room temperature for 4 hours and then concentrated in vacuo at 40°-45°C. The residual solution is washed with ether, decolorized and acidified with dilute hydrochloric acid to yield 3-(4'-chlorophenyl)-5-(1'-hydroxypropylidene)-rhodanine, m.p. 145°-149°C.

reactant | triethylorthopropionate | C(C)OC(CC)(OCC)OCC | C9H20O3
reactant | 3-(4'-chlorophenyl)-rhodanine | ClC1=CC=C(C=C1)N1C(SCC1=O)=S | C9H6ClNOS2
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4'-chlorophenyl)-5-(1'-ethoxypropylidene)-rhodanine | ClC1=CC=C(C=C1)N1C(SC(C1=O)=C(CC)OCC)=S | C14H14ClNO2S2
